US07354933B2
0.087 g sodium hydride is added to a solution of 0.300 g of 3-(4-trifluoromethylsulfanylphenyl)imidazolidine-2,4-dione in 6 ml of anhydrous dimethylformamide, under an inert atmosphere of argon at a temperature in the region of 20° C., stirring is continued at this temperature for 30 minutes, 0.152 ml of triethylamine and 0.274 g of 4-(bromomethyl)pyridine hydrobromide are successively added, followed by addition of ice-cold water 10 minutes later. The reaction mixture is placed on a cartridge 37 mm in diameter packed with 50 g of Amicon 50 μm octadecyl-grafted silica of ref. conditioned successively with a water/acetonitrile mixture (5/95, v/v) and then a water/acetonitrile mixture (95/5, v/v). The elution was performed with a water/acetonitrile mixture (95/5, v/v) over 20 minutes, followed by a linear gradient from 5% to 95% of acetonitrile over 60 minutes, at a flow rate of 10 ml/minute. The fractions between 580 and 630 ml are concentrated under reduced pressure. 0.220 g of 1-pyrid-4-ylmethyl-3-(4-trifluoromethylsulfanylphenyl)imidazolidine-2,4-dione is thus obtained in the form of a white powder, the characteristics of which are as follows:

reactant | sodium hydride | 0.087 g | [H-].[Na+]
reactant | 3-(4-trifluoromethylsulfanylphenyl)imidazolidine-2,4-dione | 0.300 g | FC(F)(F)SC1=CC=C(C=C1)N1C(NCC1=O)=O | C10H7F3N2O2S
reactant | triethylamine | 0.152 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(bromomethyl)pyridine hydrobromide | 0.274 g | Br.BrCC1=CC=NC=C1
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water acetonitrile | O.C(C)#N
product | 1-pyrid-4-ylmethyl-3-(4-trifluoromethylsulfanylphenyl)imidazolidine-2,4-dione | 0.220 g | N1=CC=C(C=C1)CN1C(N(C(C1)=O)C1=CC=C(C=C1)SC(F)(F)F)=O | C16H12F3N3O2S
